US08304419B2
To a solution of N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (500 mg, 0.814 mmol), tetraethylammoniumchloride (409 mg, 2.442 mmol) and dichlorobistriphenyl phosphinepalladium(II) (57.1 mg, 0.081 mmol) was added tributyl[1-(ethyloxy)ethenyl]stannane (0.302 mL, 0.894 mmol) and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was cooled to RT, diluted with EtOAc and washed with water. The solvent was evaporated and the residue was dissolved in THF (7.00 mL) and HCl (1.0 M solution) (4 mL, 4.00 mmol) was added. The resulting mixture was stirred for 4 hours at RT. EtOAc was added and the organics were separated. The solvent was removed and the crude material was purifed via silica gel chromatography to give N-({3-[(3-acetyl-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (384 mg, 0.665 mmol, 82% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.08 (s, 1H), 7.90 (s, 1H), 7.70 (s, 1H), 7.33-7.49 (m, 3H), 5.59 (s, 2H), 4.61 (s, 2H), 3.49 (t, 2H), 2.60 (s, 3 H), 0.83 (t, 2H), −0.12-0.01 (m, 9H).

reactant | N-({3-[(3-bromo-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.814 mmol, 500 mg | BrC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C24H24BrCl2FN4O3Si
reactant | tributyl[1-(ethyloxy)ethenyl]stannane | 0.894 mmol, 0.302 mL | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | HCl | 4.00 mmol, 1.0 M, 4 mL | Cl | ClH
catalyst | tetraethylammoniumchloride | 2.442 mmol, 409 mg | [Cl-].C(C)[N+](CC)(CC)CC
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-({3-[(3-acetyl-5-cyanophenyl)oxy]-4-chloro-2-fluorophenyl}methyl)-4-chloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.665 mmol, 384 mg, 82% yield | C(C)(=O)C=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1Cl)CNC(=O)C1=C(N=CN1COCC[Si](C)(C)C)Cl)F | C26H27Cl2FN4O4Si
